US06638967B2
4′-Pyrrolidin-1-ylmethyl-biphenyl-4-carbaldehyde
A solution of biphenyl-4,4′-dicarbaldehyde (0.21 g), pyrrolidine (83 μL), and acetic acid (57 μL) in DCM (5 mL) was treated with sodium triacetoxyborohyride (0.34 g). After 16 hours, the resulting mixture was treated with 3M NaOH (1.5 mL) and extracted with DCM (3×10 mL). The combined organic phases were dried over sodium sulfate and evaporated. The residue was purified via preparative thin layer chromatography eluting with 5% MeOH/DCM to give the title compound (42.5 mg). 1H NMR (400 MHz, CDCI3)δ10.05 (s, 1 H), 7.94 (d, J=8.0, 2 H), 7.75 (d, J=8.0, 2 H), 7.60 (d, J=8.0, 2 H), 7.47 (d, J=8.0, 2 H), 3.72 (s, 2 H), 2.61 (br s, 4 H), 1.84 (br s, 4 H).

reactant | biphenyl-4,4′-dicarbaldehyde | 0.21 g | C1(=CC=C(C=C1)C=O)C1=CC=C(C=C1)C=O | C14H10O2
reactant | pyrrolidine | 83 μL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohyride | 0.34 g | [B-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 3M, 1.5 mL | [OH-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 57 μL | C(C)(=O)O | C2H4O2
product | 4′-Pyrrolidin-1-ylmethyl-biphenyl-4-carbaldehyde | 42.5 mg | N1(CCCC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C18H19NO
